**************************************************
* Manufacturer:           Würth Elektronik
* Kinds:                  SMT Common Mode Power Line Choke 
* Matchcode:              WE-LF SMT
* Library Type:           LTspice
* Version:                rev26a
* Created/modified by:    Ella      
* Date and Time:          2026-09-24
* Team:                   eiSos EDA Service  
* Contact:                libraries@we-online.com
**************************************************
* Copyright(C) 2026 Würth Elektronik eiSos GmbH & Co. KG
* All Rights Reserved.
**************************************************
* Disclaimer: While Würth Elektronik eiSos has made every reasonable effort to ensure the accuracy
* of the simulation models provided, Würth Elektronik eiSos does not guarantee the exemption of error on
* the simulation models, nor does Würth Elektronik eiSos guarantee that the simulation model is current.
* Würth Elektronik eiSos reserves the right to make any adjustments at any time without notice.
* Würth Elektronik eiSos expressly disclaims all implied warranties regarding this simulation model.
**************************************************
.subckt SH_74466340007_0.7m 1 2 3 4
X1  1  2  3  4  LFSMD  PARAMS:
+  DL3=280n
+  DL4=40n
+  DC3=2.5p
+  DC4=8.8p
+  DR3=17
+  dR4=3.5k
+  DR5=23
+  dR6=7.75k
+  Rdc=0.03
+  ck=2.3f
+  L1=600u
+  L2=80u
+  L3=23u
+  L4=4u
+  L5=60n
+  C1=6.8p
+  C2=0.5p
+  RS1=5500
+  RS2=3400
+  RS3=400
+  RS4=200
+  RS5=300
+  R2=1
.ends SH_74466340007_0.7m
******
.subckt SH_7446632001_1m 1 2 3 4
X1  1  2  3  4  LFSMD  PARAMS:
+  DL3=310n
+  DL4=34n
+  DC3=8.5p
+  DC4=1p
+  DR3=17
+  dR4=350
+  DR5=23
+  dR6=10
+  Rdc=0.06
+  ck=10f
+  L1=0.9m
+  L2=120u
+  L3=23u
+  L4=4u
+  L5=90n
+  C1=3.4p
+  C2=0.7p
+  RS1=8500
+  RS2=3400
+  RS3=400
+  RS4=200
+  RS5=100
+  R2=1
.ends SH_7446632001_1m
******
.subckt SH_7446632002_2.2m 1 2 3 4
X1  1  2  3  4  LFSMD  PARAMS:
+  DL3=800n
+  DL4=44n
+  DC3=6.2p
+  DC4=7.5p
+  DR3=17
+  dR4=20k
+  DR5=2
+  dR6=5k
+  Rdc=0.1
+  ck=100f
+  L1=1.9m
+  L2=220u
+  L3=23u
+  L4=4u
+  L5=120n
+  C1=12.5p
+  C2=2p
+  Rs1=16.5k
+  RS2=6.4k
+  RS3=2k
+  RS4=2k
+  RS5=100
+  R2=1
.ends SH_7446632002_2.2m
******
.subckt SH_7446632003_3.3m 1 2 3 4
X1  1  2  3  4  LFSMD  PARAMS:
+  DL3=1.3u
+  DL4=44n
+  DC3=7p
+  DC4=20p
+  DR3=17
+  dR4=17k
+  DR5=2
+  dR6=100
+  Rdc=0.15
+  ck=100f
+  L1=3m
+  L2=320u
+  L3=223u
+  L4=104u
+  L5=120n
+  C1=12p
+  C2=2p
+  Rs1=24k
+  RS2=6.4k
+  RS3=2k
+  RS4=2k
+  RS5=100
+  R2=1
.ends SH_7446632003_3.3m
******
.subckt SH_7446631007_6.8m 1 2 3 4
X1  1  2  3  4  LFSMD  PARAMS:
+  DL3=2.8u
+  DL4=56n
+  DC3=8p
+  DC4=24p
+  DR3=17
+  dR4=29k
+  DR5=23
+  dR6=100
+  Rdc=0.3
+  ck=100f
+  L1=6.2m
+  L2=320u
+  L3=223u
+  L4=104u
+  L5=120n
+  C1=13p
+  C2=2p
+  Rs1=56k
+  RS2=20k
+  RS3=20k
+  RS4=20k
+  RS5=100
+  R2=1
.ends SH_7446631007_6.8m
******
.subckt SH_7446631010_10m 1 2 3 4
X1  1  2  3  4  LFSMD  PARAMS:
+  DL3=4.5u
+  DL4=56n
+  DC3=6.8p
+  DC4=24p
+  DR3=17
+  dR4=36k
+  DR5=23
+  dR6=100
+  Rdc=0.3
+  ck=100f
+  L1=9.5m
+  L2=320u
+  L3=223u
+  L4=104u
+  L5=120n
+  C1=12p
+  C2=2p
+  Rs1=97k
+  RS2=20k
+  RS3=20k
+  RS4=20k
+  RS5=100
+  R2=1
.ends SH_7446631010_10m
******
.subckt SH_7446630027_27m 1 2 3 4
X1  1  2  3  4  LFSMD  PARAMS:
+  DL3=13.5u
+  DL4=250n
+  DC3=12p
+  DC4=7p
+  DR3=17
+  dR4=45k
+  DR5=23
+  dR6=100
+  Rdc=1.2
+  ck=1.2f
+  L1=30m
+  L2=1.2m
+  L3=23u
+  L4=4u
+  L5=0.9u
+  C1=16p
+  C2=22p
+  Rs1=280k
+  Rs2=42k
+  RS3=42k
+  RS4=42k
+  RS5=170
+  R2=1
.ends SH_7446630027_27m
******
.subckt SH_7446630039_39m 1 2 3 4
X1  1  2  3  4  LFSMD  PARAMS:
+  DL3=20u
+  DL4=1u
+  DC3=14.5p
+  DC4=15p
+  DR3=17
+  dR4=47k
+  DR5=23
+  dR6=100
+  Rdc=1.7
+  ck=100f
+  L1=38m
+  L2=5m
+  L3=1m
+  L4=1m
+  L5=0.9u
+  C1=21p
+  C2=22p
+  Rs1=400k
+  Rs2=42k
+  RS3=42k
+  RS4=42k
+  RS5=170
+  R2=1
.ends SH_7446630039_39m
******
.subckt SH_7446630047_47m 1 2 3 4
X1  1  2  3  4  LFSMD  PARAMS:
+  DL3=24u
+  DL4=1u
+  DC3=18p
+  DC4=15p
+  DR3=17
+  dR4=47k
+  DR5=23
+  dR6=100
+  Rdc=2.6
+  ck=100f
+  L1=36m
+  L2=11m
+  L3=1m
+  L4=1m
+  L5=0.9u
+  C1=24.5p
+  C2=22p
+  Rs1=400k
+  Rs2=122k
+  RS3=42k
+  RS4=42k
+  RS5=170
+  R2=10.41
.ends SH_7446630047_47m
.SUBCKT  LFSMD  1  2  3  4  PARAMS:
+  DL3=24u
+  DL4=1u
+  DC3=18p
+  DC4=15p
+  DR3=17
+  dR4=47k
+  DR5=23
+  dR6=100
+  Rdc=2.6
+  ck=100f
+  L1=36m
+  L2=11m
+  L3=1m
+  L4=1m
+  L5=0.9u
+  C1=24.5p
+  C2=22p
+  Rs1=400k
+  Rs2=122k
+  RS3=42k
+  RS4=42k
+  RS5=170
+  R2=10.41
R_R9 N12325 3 {R2}
R_R8 N13265 N13287 {Rs4}
R_R3 N12571 N12583 {Rs3}
R_R10 N13777 4 {R2}
C_C10 N13029 N12821 {ck}
R_R20 N13215 N13229 {dR4}
L_L11 N12821 N12295 {dL4}
R_R17 N12267 N12273 {dR3}
L_L8 N13265 N13287 {L4}
R_R7 N13287 N13305 {Rs3}
L_L9 N12295 N12307 {L5}
R_R2 N12583 N12599 {Rs2}
R_R16 N13229 N13249 {dR6}
C_C5 N12273 N12289 {dC4}
L_L6 N13287 N13305 {L3}
L_L7 N12307 N12571 {L4}
R_R6 N13305 N13319 {Rs2}
R_R21 1 N12257 {Rdc}
L_L16 N12257 N12799 {dL3}
C_C8 N13215 N13741 {dC3}
L_L18 N13023 N13215 {dL3}
R_R1 N12599 4 {Rs1}
R_R13 N12289 N12295 {dR5}
L_L4 N13305 N13319 {L2}
L_L5 N12571 N12583 {L3}
R_R15 N13755 N13249 {dR5}
R_R5 N13319 3 {Rs1}
R_R18 N12257 N12273 {dR4}
R_R19 N13741 N13229 {dR3}
L_L15 N12799 N12273 {dL3}
L_L17 N13229 N13023 {dL3}
L_L3 N12583 N12599 {L2}
R_R11 N12295 N12307 {Rs5}
L_L2 N13319 3 {L1}
C_C4 N13249 N13265 {C2}
L_L10 N13249 N13265 {L5}
R_R14 N12273 N12295 {dR6}
C_C6 N13229 N13755 {dC4}
L_L12 N12273 N12821 {dL4}
L_L14 N13029 N13229 {dL4}
L_L1 N12599 4 {L1}
C_C1 N12307 N12325 {C1}
R_R12 N13249 N13265 {Rs5}
C_C2 N13265 N13777 {C1}
R_R22 2 N13215 {Rdc}
C_C9 N13023 N12799 {ck}
R_R4 N12307 N12571 {Rs4}
C_C3 N12295 N12307 {C2}
L_L13 N13249 N13029 {dL4}
C_C7 N12257 N12267 {dC3}
Kn_K1  L_L1  L_L2  1
Kn_K2  L_L3  L_L4  1
Kn_K3  L_L5  L_L6  1
Kn_K4  L_L7  L_L8  1
Kn_K5  L_L9  L_L10  1
Kn_K6a  L_L11  L_L12  0.9999
Kn_K6b  L_L11  L_L13  0.9999
Kn_K6c  L_L11  L_L14  0.9999
Kn_K6d  L_L12  L_L13  0.9999
Kn_K6e  L_L12  L_L14  0.9999
Kn_K6f  L_L13  L_L14  0.9999
Kn_K7a  L_L15  L_L16  0.9999
Kn_K7b  L_L15  L_L17  0.9999
Kn_K7c  L_L15  L_L18  0.9999
Kn_K7d  L_L16  L_L17  0.9999
Kn_K7e  L_L16  L_L18  0.9999
Kn_K7f  L_L17  L_L18  0.9999
.ends  LFSMD
******